US04389416
2,3-Dichloro-4-(p-nitrophenylsulfenyl)anisole
A mixture of 2,3-dichloro-4-methoxybenzenethiol (6.0 g., 0.024 mole), p-fluoronitrobenzene (3.04 ml., 0.029 mole) and anhydrous potassium carbonate (5.15 g., 0.038 mole) in 60 ml. of DMF was stirred at room temperature for 2 hours and then poured into water. The resulting solid product was filtered and washed well with ethanol to give 9.1 g. (96%), m.p. 236°-237°.

reactant | 2,3-dichloro-4-methoxybenzenethiol | 0.024 mole, 6.0 g | ClC1=C(C=CC(=C1Cl)OC)S | C7H6Cl2OS
reactant | p-fluoronitrobenzene | 0.029 mole, 3.04 ml | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | potassium carbonate | 0.038 mole, 5.15 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2,3-Dichloro-4-(p-nitrophenylsulfenyl)anisole | ClC1=C(C=CC(=C1Cl)SC1=CC=C(C=C1)[N+](=O)[O-])OC | C13H9Cl2NO3S
